US04988814
4-(2-Pyrimidinyl)-N-(1-methylcyclohexyl)-1-piperazinepropanamide
The title compound was prepared from -1-(2-pyrimidyl)piperazine dihydrochloride (2.77 g, 0.0117 mol), sodium acetate (1.92 g, 0.0234 mol) and the mixture of 3-N-1-methylcyclohexyl-bromopropanamide and N-1-methylcyclohexyl acrylamide (1.8 g, 0.0098 mol) in the manner described in Example 16 to give 1.36 g of the title compound as the dihydrochloride (32%, based on the amide mixture), mp. 204°-209° C.

reactant | 1-(2-pyrimidyl)piperazine dihydrochloride | 0.0117 mol, 2.77 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | sodium acetate | 0.0234 mol, 1.92 g | C(C)(=O)[O-].[Na+]
reactant | N-1-methylcyclohexyl acrylamide | 0.0098 mol, 1.8 g | CC1(CCCCC1)NC(C=C)=O | C10H17NO
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 4-(2-Pyrimidinyl)-N-(1-methylcyclohexyl)-1-piperazinepropanamide | 1.36 g | N1=C(N=CC=C1)N1CCN(CC1)CCC(=O)NC1(CCCCC1)C | C18H29N5O
